US06326359B1
2-(Methylsulfanyl)-N-phenethyl-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine
The title compound was prepared by a similar method to preparation 7 from 2-chloro-N-phenethyl-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine (17.5 g, 49 mmol) (preparation 41) and sodium thiomethoxide (7.2 g, 75 mmol). This gave the title compound (16.7 g) as a white solid.

reactant | 2-chloro-N-phenethyl-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine | 49 mmol, 17.5 g | ClC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCCC1=CC=CC=C1 | C18H20ClN5O
reactant | sodium thiomethoxide | 75 mmol, 7.2 g | C[S-].[Na+]
product | 2-(Methylsulfanyl)-N-phenethyl-9-tetrahydro-2H-pyran-2-yl-9H-purin-6-amine | 16.7 g | CSC1=NC(=C2N=CN(C2=N1)C1OCCCC1)NCCC1=CC=CC=C1 | C19H23N5OS
